US06306840B1
To a suspension of 4-amino phenylacetic acid (9 g, 60 mmol) and N-(benzyloxycarbonyloxy)-succinimide (15 g, 60 mmol) in CH2Cl2 was added enough triethylamine to form a homogeneous solution. The mixture was stirred at room temperature for 30 min and then CH2Cl2 was removed by rotavapor. The resulting residue was dissolved in water and acidified with 5% HCl. The solid thus formed was filtered and washed with 5% HCl, water, and diethyl ether to give 12 g (70%) of Cbz-aminophenylacetic acid as a brownish powder. 1H-NMR (300 MHz, DMSO-d6): 3.48 (s, 2H), 5.13 (s, 2H), 7.14 (d, 2H), 7.29-7.45 (m, 7H), 9.73 (s, 1 H).

reactant | 4-amino phenylacetic acid | 60 mmol, 9 g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | N-(benzyloxycarbonyloxy)-succinimide | 60 mmol, 15 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Cbz-aminophenylacetic acid | 12 g, 70% | C(=O)(OCC1=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)N | C16H15NO4
